US04743685
(B) [2-[(Phenylmethoxy)carbonyl]hydrazino]acetic acid, 1,1-dimethylethyl ester
Into a stirred solution of 6.65 g (0.040 mol) of N-[(phenylmethoxy)carbonyl]hydrazine in 40 ml of dimethylformamide was dropped a solution of 8.58 g (0.044 mol) of t-butyl bromoacetate in 20 ml of dimethylformamide followed by a solution of 8.2 ml (0.048 mol) of N,N-diisopropylethylamine in 8 ml of dimethylformamide. After the mixture had been stirred at room temperature for one day, the solvent was distilled off in vacuo and the residue was taken up in ether and water. The organic layer was washed three times with water, dried (magnesium sulfate) and evaporated in vacuo to leave an oil (10.6 g), which was purified by column chromatography on silica gel eluting with ethyl acetate/toluene (1:1). The appropriate fractions were evaporated in vacuo and the residue was stirred with petroleum ether yielding 6.0 g of the title compound, melting point 61°-62° C.

reactant | N-[(phenylmethoxy)carbonyl]hydrazine | 0.040 mol, 6.65 g | C1(=CC=CC=C1)COC(=O)NN | C8H10N2O2
reactant | t-butyl bromoacetate | 0.044 mol, 8.58 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | N,N-diisopropylethylamine | 0.048 mol, 8.2 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | [2-[(Phenylmethoxy)carbonyl]hydrazino]acetic acid, 1,1-dimethylethyl ester | 10.6 g | C1(=CC=CC=C1)COC(=O)NNCC(=O)OC(C)(C)C | C14H20N2O4
